US07893085B2
3-(2-Fluoro-4-iodo-phenylamino)-thieno[2,3-c]pyridine-2-carboxylic acid ethyl ester
A mixture of 3-(4-bromo-2-fluoro-phenylamino)-thieno[2,3-c]pyridine-2-carboxylic acid ethyl ester (288 mg, 0.73 mmol), copper (1) iodide (7 mg, 0.036 mmol), sodium iodide (219 mg, 1.46 mmol) and trans-N,N′-dimethyl-1,2-cyclohexane diamine (10.4 mg, 0.073 mmol) in 1,4-dioxane (1.0 ml) was heated at 105° C. for 24 hours under an argon atmosphere. Copper (I) iodide (7 mg, 0.036 mmol) and trans-N,N′-dimethyl-1,2-cyclohexane diamine (10.4 mg, 0.073 mmol) were added and heating continued for a further 24 hours. The reaction was cooled to room temperature and the mixture was partitioned between DCM (30 ml), concentrated aqueous ammonia (2 ml) and water (13 ml). The organic layer was isolated, dried over sodium sulphate, filtered and evaporated then the residue was purified by flash chromatography (Si-SPE, DCM) to afford the title compound as a yellow solid (275 mg, 85%). LCMS (method B): RT=4.23 min, M+H+=443.

reactant | 3-(4-bromo-2-fluoro-phenylamino)-thieno[2,3-c]pyridine-2-carboxylic acid ethyl ester | 0.73 mmol, 288 mg | C(C)OC(=O)C1=C(C=2C(=CN=CC2)S1)NC1=C(C=C(C=C1)Br)F | C16H12BrFN2O2S
reactant | sodium iodide | 1.46 mmol, 219 mg | [I-].[Na+]
reactant | trans-N,N′-dimethyl-1,2-cyclohexane diamine | 0.073 mmol, 10.4 mg | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | trans-N,N′-dimethyl-1,2-cyclohexane diamine | 0.073 mmol, 10.4 mg | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
solvent | 1,4-dioxane | 1.0 ml | O1CCOCC1 | C4H8O2
catalyst | copper (1) iodide | 0.036 mmol, 7 mg | [Cu]I
catalyst | Copper (I) iodide | 0.036 mmol, 7 mg | [Cu]I
product | 3-(2-Fluoro-4-iodo-phenylamino)-thieno[2,3-c]pyridine-2-carboxylic acid ethyl ester | 275 mg, 85% | C(C)OC(=O)C1=C(C=2C(=CN=CC2)S1)NC1=C(C=C(C=C1)I)F | C16H12FIN2O2S
